US06407122B1
1-(2-Amino-benzothiazol-6-yl)-2-(4-benzyl-piperidin-1-yl)-ethanone
A solution of 2 g of 1-(2-Acetylamino-benzothiazol-6-yl)-2-bromo-ethanone and 1.5 g of 4-benzylpiperidin and 2.5 g of K2CO3 in 20 ml of DMF was heated at 35° C. for 2 hours.

reactant | 1-(2-Acetylamino-benzothiazol-6-yl)-2-bromo-ethanone | 2 g | C(C)(=O)NC=1SC2=C(N1)C=CC(=C2)C(CBr)=O | C11H9BrN2O2S
reactant | 4-benzylpiperidin | 1.5 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | K2CO3 | 2.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-(2-Amino-benzothiazol-6-yl)-2-(4-benzyl-piperidin-1-yl)-ethanone | NC=1SC2=C(N1)C=CC(=C2)C(CN2CCC(CC2)CC2=CC=CC=C2)=O | C21H23N3OS
